US07026505B2
(1-Nitromethyl-cyclohexyl)-acetonitrile (3)
The nitrile (compound 2, 0.78 g, 6.44 mmol), nitromethane (0.80 g, 13.11 mmol) and tetrabutyl ammonium fluoride (1.0 M in tetrahydrofuran, 10 mL, 10 mmol) were heated in 20 mL tetrahydrofuran to 70° C. overnight. The reaction mixture was diluted with ethyl acetate and washed with dilute hydrochloric acid and water, dried over magnesium sulphate, filtered, and evaporated to dryness. The residue was purified by chromatography on silica eluting with heptane/ethyl acetate 3:1 to give the required product as a yellow oil (0.83 g, 71%).

reactant | nitromethane | 13.11 mmol, 0.80 g | [N+](=O)([O-])C | CH3NO2
reactant | tetrabutyl ammonium fluoride | 10 mmol, 1.0 M, 10 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1-Nitromethyl-cyclohexyl)-acetonitrile | 0.83 g, 71% | [N+](=O)([O-])CC1(CCCCC1)CC#N | C9H14N2O2
